US05604238
Z-5,6,7,8-Tetrahydro-4-methyl-8-(1-(4-methylphenyl)ethylidene)quinoline
5,6,7,8-Tetrahydro-4-methylquinoline (7.5 g) in tetrahydrofuran (THF) (25 ml) was added to a solution of n-butyl lithium (1.37M, 37 ml) in THF (40 ml) maintained at 0° C. After 30 minutes the solution was blown over with nitrogen onto a solution of trimethylsilyl chloride (5.6 g) in THF (25 ml) at 0° C. Further n-butyl lithium (1.37M, 37 ml) was added and after 30 minutes the reaction mixture was blown over with nitrogen onto 4-methylacetophenone (15 g) in THF (25 ml) at 0° C. After 10 minutes 2M HCl (150 ml) was added.

reactant | 5,6,7,8-Tetrahydro-4-methylquinoline | 7.5 g | CC1=CC=NC=2CCCCC12 | C10H13N
reactant | n-butyl lithium | 1.37M, 37 ml | C(CCC)[Li]
reactant | trimethylsilyl chloride | 5.6 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyl lithium | 1.37M, 37 ml | C(CCC)[Li]
reactant | HCl | 2M, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
solvent | THF | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 25 ml | O1CCCC1 | C4H8O
product | Z-5,6,7,8-Tetrahydro-4-methyl-8-(1-(4-methylphenyl)ethylidene)quinoline | CC1=CC=NC=2\C(\CCCC12)=C(\C)/C1=CC=C(C=C1)C | C19H21N
